Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cp, DOE
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ man with a history of HTN, HLD, & remote prostate cancer 
(recent PSA normal 1 month ago) who presents with 1 day of left 
calf pain & dyspnea.  Pt is an anesthesiologist at ___ and was at 
a medical conference this morning when he felt a pain in his 
left calf.  He states that he has been lifting a lot recently 
and has multiple muscle aches so he attributed it to this.  
However, on leaving the conference he noted dyspnea when walking 
up 3 flights of stairs, which is not normal for him.  He sat 
down to rest however the dyspnea persisted.  He denied chest 
pain, pressure or lightheadedness.  He checked his O2 sats which 
was 95% and a rhythm strip which showed sinus rhythm.  No recent 
trauma, surgery, or travel and no family hx of clots.  He has no 
prior history of DVT/PE.  He is up to date on routine ca 
screenings with recent ___ and recently nl PSA.
 
In the ED, initial vitals were: 97.8 92 143/85 18 100% Nasal 
Cannula. He was rapidly weaned off of oxygen.   Mascot was 
consulted and recommended admission with heparin gtt and 
transition to noac, TTE.  

On the floor, he is asymptomatic, denies SOB or CP.  He noted 
mild sob with walking to the bathroom.  No calf tenderness or 
swelling.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. 10 pt ros otherwise 
negative.

 
Past Medical History:
Migraines
Prostate CA-s/p radical prostecomy in ___, PSAs recently nl
HLD
HTN
Allergic Rhinitis
Depression
 
Social History:
___
Family History:
(per chart, confirmed with pt): no history of clots.  Dad died 
from complications of rheumatic valve disease.  Mother with 
diabetes, ultimately had MI. 
 
Physical Exam:
Admission PE
Vitals:  98.1PO15___ R Sitting 71 24 94 Ra 100% Nasal 
Cannula 
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MMM
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE, no calf tenderness
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions

Discharge PE:
97.5 156 / ___
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MMM
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no 
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE, no calf tenderness
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions
 
Pertinent Results:
___ 10:30AM   GLUCOSE-127* UREA N-21* CREAT-1.0 SODIUM-138 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-24 ANION GAP-15
___ 10:30AM   estGFR-Using this
___ 10:30AM   cTropnT-<0.01
___ 10:30AM   proBNP-79
___ 10:30AM   WBC-6.6 RBC-4.53* HGB-14.1 HCT-43.8 MCV-97 
MCH-31.1 MCHC-32.2 RDW-13.1 RDWSD-46.8*
___ 10:30AM   NEUTS-76.4* LYMPHS-12.9* MONOS-9.3 EOS-0.3* 
BASOS-0.5 IM ___ AbsNeut-5.03 AbsLymp-0.85* AbsMono-0.61 
AbsEos-0.02* AbsBaso-0.03
___ 10:30AM   PLT COUNT-243

LABS:
See below, prior labs, imaging and records reviewed in ___

MICRO: none

STUDIES:
CTA
1. Bilateral acute pulmonary emboli with extension of thrombi 
into the lobar, segmental, and subsegmental branches 
bilaterally.
2. Flattening of the interventricular septum is concerning for 
right heart strain for which correlation with ECHO is 
recommended.
3. There is dependent bibasilar atelectasis without pulmonary 
consolidation or infarction. There is no pleural effusion.

LEUS
The deeper more left peroneal vein very focally demonstrates 
lack of color flow and equivocal focal lack of compression. This 
may be technical or due to a very focal deep venous thrombus of 
indeterminate age.

No evidence of deep venous thrombosis seen elsewhere in the left 
lower
extremity.

CXR: no acute CP proccess

 
Brief Hospital Course:
Very pleasant ___ yo BI anesthesiologist with HTN, HLD admitted 
for new unprovoked PE.

# Unprovoked bilateral PE: no risk factors.  Pt is stable with 
nl HR, respiratory rate and oxygenation.  Trop and BNP are 
reassuringly stable.  He was initially started on a heparin drip 
in the ED and quickly transitioned to rivaroxaban.  Given the 
extensive nature of the PE he should be anti coagulated for at 
least three months but consideration should be made for 
indefinite anticoagulation.  He is up to date in cancer 
screening with recent colonoscopy and no signs of recurrence of 
prostate cancer.  
-continue rivaroxaban 15 BID x3 wks, then 20 daily for at least 
three months
-Discontinue home aspirin (per patient primary prevention 
aspirin)
-Consider referral to hematology to discuss length of 
anticoagulation and possible other cancer screenings.

# HTN: continue home lisinopril and metoprolol  

# depression: cont home meds

# HLD: cont fenofibrate

# migraines: continue relpax PRN

# GERD: continue PPI as needed

# FEN: No IVF, replete electrolytes, regular diet
# ACCESS: peripherals
# CODE: presumed full
# CONTACT: wife, ___ ___
# DISPO: home without services
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methylphenidate SR 54 mg PO QAM 
2. Lisinopril 20 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Fenofibrate 200 mg PO DAILY 
5. Escitalopram Oxalate 20 mg PO DAILY 
6. BuPROPion (Sustained Release) 100 mg PO QAM 
7. Omeprazole 20 mg PO DAILY 
8. Aspirin EC 81 mg PO DAILY 
9. Relpax (eletriptan HBr) 20 mg oral DAILY:PRN 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID Duration: 3 Weeks 
RX *rivaroxaban [Xarelto] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*42 Tablet Refills:*0 
2.  Rivaroxaban 20 mg PO DAILY Duration: 3 Months 
Start after finishing 15 mg BID for 3 weeks. 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*3 
3.  BuPROPion (Sustained Release) 100 mg PO QAM  
4.  Escitalopram Oxalate 20 mg PO DAILY  
5.  Fenofibrate 200 mg PO DAILY  
6.  Lisinopril 20 mg PO DAILY  
7.  Methylphenidate SR 54 mg PO QAM  
8.  Metoprolol Succinate XL 50 mg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Relpax (eletriptan HBr) 20 mg oral DAILY:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unprovoked bilateral pulmonary embolism
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted with calf pain and shortness of breath when 
climbing stairs and were found to have bilateral pulmonary 
embolism.  You were started on a heparin drip and were 
transitioned to rivaroxaban.  Please follow-up with your primary 
care physician as scheduled and consider referral to a 
hematologist to discuss length of anticoagulation.
 
Followup Instructions:
___